US07723397B2
Preparation of 2-hydroxy-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-2-methyl-propan-1-one
208.0 g (1.56 mol) of 30% NaOH and 208 ml of deionised water and 205.7 g of methanol are combined. The temperature rises to approximately 36° C. The mixture is then heated to 50° C. using an oil bath. While stirring well, 249.5 g (0.65 mol tq) of the crude product bis[4-(2-chloro-2-methyl-propionyl)-phenyl] ether from the chlorination reaction, dissolved while warm with 230 ml of toluene and with 102.8 g of methanol, are then added dropwise in the course of approximately one hour. The internal temperature slowly rises to 55-60° C. The alkaline mixture (approximately pH 12) is then stirred for approximately from two to three hours at 55-60° C. The conversion is checked using a GC sample and using a 1H-NMR sample. The mixture is then cooled to 50° C. and adjusted to a pH of approximately 1-2 by the dropwise addition of approximately 68 g of 16% hydrochloric acid. The colour of the emulsion changes from a strong yellow to yellow. The mixture is subsequently stirred for approximately 30-60 minutes. When the hydrolysis is complete, the reaction mixture is rendered neutral with a small amount of dilute sodium hydroxide solution. The two phases are separated at approximately 50° C. in a separating funnel. 200 ml of water are added to the organic phase, which is stirred and separated off again. The warm organic phase is partially concentrated (approximately 100 ml) using a rotary evaporator in order to remove residual methanol and water. It is then diluted with 660 ml of warm toluene. The solution is seeded at 45° C. and is cooled later, after crystallisation. The thick suspension is filtered and washed with toluene. The white crystals, bis[4-(2-hydroxy-2-methyl-propionyl)-phenyl] ether, are dried in vacuo. 190.5 g of white crystals, which melt at 97.2-97.6° C., are obtained. In the 1H-NMR spectrum, the product 1,2-bis[4-(2-hydroxy-2-methyl-propionyl)-phenyl] ether is isomerically pure.

reactant | NaOH | 1.56 mol, 208.0 g | [OH-].[Na+]
reactant | water | 208 ml | O | H2O
reactant | bis[4-(2-chloro-2-methyl-propionyl)-phenyl] ether | ClC(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C(C)(C)Cl)=O)(C)C | C20H20Cl2O3
reactant | hydrochloric acid | approximately 68 g | Cl | ClH
solvent | methanol | 102.8 g | CO | CH4O
solvent | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 205.7 g | CO | CH4O
product | 2-hydroxy-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-2-methyl-propan-1-one | OC(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C(C)(C)O)=O)(C)C | C20H22O5
